US05534518
A stirred solution of 5.1 mL (0.046 mole) of 2-bromo-5-chlorothiophene in 200 mL of tetrahydrofuran was cooled to -85° C., and 19.7 mL (0.049 mole) of n-butyllithium (0.049 mole--2.5M in hexanes) was added dropwise during a 15 minute period. The reaction mixture temperature was maintained at -85° C. to -80° C. throughout the addition. Upon completion of addition, the reaction mixture temperature was maintained at about -80° C. for one hour. After this time, a solution of 12.5 mL (0.046 mole) of tributyltin chloride in 50 mL of tetrahydrofuran was added to the cold reaction mixture during a 10 minute period. Upon completion of addition, the reaction mixture was stirred at -80° C. for one hour, then it was allowed to warm gradually to ambient temperature. The reaction was quenched with an aqueous solution saturated with ammonium chloride, and then the reaction mixture was extracted with three 150 mL portions of diethyl ether. The combined extracts were dried with magnesium sulfate and filtered. The filtrate was concentrated under reduced pressure, yielding 18.4 grams of (5-chlorothien-2-yl)tributyl tin. The NMR spectrum was consistent with the proposed structure.

reactant | 2-bromo-5-chlorothiophene | 0.046 mole, 5.1 mL | BrC=1SC(=CC1)Cl | C4H2BrClS
reactant | n-butyllithium | 0.049 mole, 19.7 mL | C(CCC)[Li]
reactant | tributyltin chloride | 0.046 mole, 12.5 mL | C(CCC)[Sn](CCCC)(CCCC)Cl
solvent | tetrahydrofuran | 200 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 mL | O1CCCC1 | C4H8O
product | (5-chlorothien-2-yl)tributyl tin | 18.4 grams | ClC1=CC=C(S1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C4H2ClS.3C4H9.Sn/c5-4-2-1-3-6-4;3*1-3-4-2;/h1-2H;3*1,3-4H2,2H3;
